US07838518B2
(A): 2,3-Dihydro-1H-indole-3-carboxylic acid
A stirred suspension of 1H-indole-3-carboxylic acid (20.8 g, 0.129 mol) in 1-butanol (600 cm3) under nitrogen was heated under gentle reflux. Sodium (39.3 g, 1.71 mol) was added in small pieces over 3.5 h. After heating under reflux for a further 1.25 h the mixture was cooled and water (250 cm3) was added carefully. The resulting mixture was concentrated almost to dryness and the residue was acidified by the careful addition of 2M hydrochloric acid (900 cm3) with cooling. The aqueous mixture was washed with dichloromethane (2×300 cm3) and then was neutralised by the addition of 5%, aqueous sodium bicarbonate solution (ca. 450 cm3). The solution was evaporated to dryness under reduced pressure and the solid residue was triturated with dichloromethane-methanol (9:1, 400 cm3 then 3×200 cm3) to dissolve the product. The sodium chloride was filtered off and the filtrate was evaporated to afford a gum (18.1 g), which was dissolved in dichloromethane-methanol (9:1, 200 cm3). This mixture was evaporated to low volume before diethyl ether was added, then the solvent was evaporated to leave a froth. This was triturated with diethyl ether (150 cm3), filtered off and dried at 30° C. under vacuum to give the title compound (15.9 g, 76%): positive ion ESI (M+H)+ 164.5.

reactant | 1H-indole-3-carboxylic acid | 0.129 mol, 20.8 g | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | Sodium | 1.71 mol, 39.3 g | [Na] | Na
reactant | water | 250 cm3 | O | H2O
solvent | 1-butanol | 600 cm3 | C(CCC)O | C4H10O
product | 2,3-Dihydro-1H-indole-3-carboxylic acid | 18.1 g | N1CC(C2=CC=CC=C12)C(=O)O | C9H9NO2
